US07485732B2
Step 1: Methyl azetidin-3-yl(3,5-difluorophenyl)acetate
A mixture of 0.406 g (1 mmol) of methyl (3,5-difluorophenyl)[1-(diphenylmethyl)azetidin-3-ylidene]acetate and 25 mg of 10% Pd/C in 10 mL of methanol and 1 mL of 1M HCl in ether was shaken under 40 psi H2 for 18 h. The mixture was filtered through CELITE and the solid residue was washed with 30 mL of methanol. The filtrate was concentrated to afford a mixture of the title compound and diphenylmethane, which was not separated but was used directly in the next step; Mass Spectrum: m/e=242 (M+1).

reactant | methyl (3,5-difluorophenyl)[1-(diphenylmethyl)azetidin-3-ylidene]acetate | 1 mmol, 0.406 g | FC=1C=C(C=C(C1)F)C(C(=O)OC)=C1CN(C1)C(C1=CC=CC=C1)C1=CC=CC=C1 | C25H21F2NO2
reactant | diphenylmethane | C1(=CC=CC=C1)CC1=CC=CC=C1 | C13H12
solvent | methanol | 10 mL | CO | CH4O
solvent | HCl | 1M, 1 mL | Cl | ClH
solvent | ether | CCOCC | C4H10O
catalyst | Pd/C | 25 mg | [Pd] | Pd
product | Methyl azetidin-3-yl(3,5-difluorophenyl)acetate | N1CC(C1)C(C(=O)OC)C1=CC(=CC(=C1)F)F | C12H13F2NO2
